US06087380
1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(4-pyrimidyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(4-pyrimidyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 14% of theory, C26H27N7O4 (501.6) Mass spectrum: (M+H)+ =502

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(4-pyrimidyl)-N-(2-ethoxycarbonylethyl)-amide | N1=CN=C(C=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C26H24N6O4
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-(4-pyrimidyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 14% | Cl.N1=CN=C(C=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C26H27N7O4.ClH/c1-3-36-24(34)11-13-33(22-10-12-29-16-30-22)26(35)18-6-9-21-20(14-18)31-23(32(21)2)15-37-19-7-4-17(5-8-19)25(27)28;/h4-10,12,14,16H,3,11,13,15H2,1-2H3,(H3,27,28);1H
